US04873255
Ethyl 2-chloro-3-[4-(2,5,7-trimethyl-4-oxochroman-2-ylmethoxy)phenyl]propionate
A procedure similar to that described in Preparation 5 was repeated, except that 1.8 g of 2-(4-aminophenoxymethyl)-2,5,7-trimethyl-4-oxochroman (prepared as described in Preparation 28), 2 ml of concentrated aqueous hydrochloric acid, 520 mg of sodium nitrite, 6 ml of ethyl acrylate, 83 mg of cuprous oxide, 20 ml of acetone and 1 ml of water were reacted, to afford 1.52 g of the title compound as a pale yellow oil.

reactant | 2-(4-aminophenoxymethyl)-2,5,7-trimethyl-4-oxochroman | 1.8 g | NC1=CC=C(OCC2(OC3=CC(=CC(=C3C(C2)=O)C)C)C)C=C1 | C19H21NO3
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | sodium nitrite | 520 mg | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 6 ml | C(C=C)(=O)OCC | C5H8O2
solvent | water | 1 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | Ethyl 2-chloro-3-[4-(2,5,7-trimethyl-4-oxochroman-2-ylmethoxy)phenyl]propionate | 1.52 g | ClC(C(=O)OCC)CC1=CC=C(C=C1)OCC1(OC2=CC(=CC(=C2C(C1)=O)C)C)C | C24H27ClO5
